US03999974
5-(1-allyloxyaminobutylidene)-1,3-dimethylbarbituric acid
2.3 g of 5-butyryl-1,3-dimethylbarbituric acid was dissolved in 30 ml of ethanol and 1 g of allyloxyamine was added to it at a temperature of 30° C. After stirring during 2 hours, said ethanol was distilled off and thereby 2.6 g of white crystals was separated. The purified compound was obtained as needles by recrystallization from methanol.

reactant | 5-butyryl-1,3-dimethylbarbituric acid | 2.3 g | C(CCC)(=O)C1C(N(C(N(C1=O)C)=O)C)=O | C10H14N2O4
reactant | allyloxyamine | 1 g | C(C=C)ON | C3H7NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-(1-allyloxyaminobutylidene)-1,3-dimethylbarbituric acid | C(C=C)ONC(CCC)=C1C(N(C(N(C1=O)C)=O)C)=O | C13H19N3O4
